US05891902
N-Isopropyl-3-[bis(4-methylphenyl)methyl]indole-2-sulfonamide (Compound 266)
Substantially the same procedure as in Example 266 was repeated using 4,4'-dimethylbenzhydrol (0.96 g, 4.50 mmol) and N-isopropylindole-2-sulfonamide (1.00 g, 4.46 mmol) to give 1.44 g (yield: 75%) of the title compound.

reactant | 4,4'-dimethylbenzhydrol | 4.50 mmol, 0.96 g | CC1=CC=C(C(C2=CC=C(C=C2)C)O)C=C1 | C15H16O
reactant | N-isopropylindole-2-sulfonamide | 4.46 mmol, 1.00 g | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1 | C11H14N2O2S
product | N-Isopropyl-3-[bis(4-methylphenyl)methyl]indole-2-sulfonamide | 1.44 g, yield: 75% | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C26H28N2O2S
